US07176227B2
Synthesis of 1-propyl-1H-imidazole-2-carboxaldehyde
In DMF 15 ml, 2-imidazole carboxaldehyde (500 mg) was dissolved. Then, the solution was added with 1-iodopropane (1.52 ml) and sodium hydride (208 mg), followed by stirring at room temperature for 5 days. After completion of the reaction, the solvent was distilled off and the residue was then added with chloroform, followed by washing with water and saturated saline solution. The resultant was dried with anhydrous sodium sulfate, and the solvent was distilled off. Then, the residue was purified through silica gel column chromatography (chloroform/methanol), thereby obtaining the subject compound (600 mg) as a yellow oily substance.

reactant | 2-imidazole carboxaldehyde | 500 mg | N1C(=NC=C1)C=O | C4H4N2O
reactant | 1-iodopropane | 1.52 ml | ICCC | C3H7I
reactant | sodium hydride | 208 mg | [H-].[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 1-propyl-1H-imidazole-2-carboxaldehyde | 600 mg | C(CC)N1C(=NC=C1)C=O | C7H10N2O
